US05504244
The procedure described in Example 23 is followed using trans-1,2-cyclohexanedicarboxylic anhydride (20.0 g), 1-phenylnonane (200 ml), and anhydrous aluminum chloride (38.1 g). Work-up as described provided trans-2-(4-n-nonylbenzoyl)cyclohexane1-carboxylic acid (28.5 g, m.p. 84°-86° C).

reactant | trans-1,2-cyclohexanedicarboxylic anhydride | 20.0 g | [C@@H]12[C@H](CCCC1)C(=O)OC2=O | C8H10O3
reactant | aluminum chloride | 38.1 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-phenylnonane | 200 ml | C1(=CC=CC=C1)CCCCCCCCC | C15H24
product | trans-2-(4-n-nonylbenzoyl)cyclohexane1-carboxylic acid | 28.5 g | C(CCCCCCCC)C1=CC=C(C(=O)[C@H]2[C@@H](CCCC2)C(=O)O)C=C1 | C23H34O3
